US08865675B2
Synthesis of (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-18-yl 2-(dimethylamino)ethyl(ethyl)carbamate (Compound 29)
To a solution of dilinoleyl methanol (1.0 g, 1.9 mmol) and pyridine (230 μL, 4.7 mmol) in anhydrous ether (10 mL) cooled to −15° C. under nitrogen was slowly added diphosgene (0.38 mL, 3.14 mmol). The reaction was stirred for 1 hour at −15° C., then N,N-dimethyl-N′-ethyl-ethylenediamine (2.2 mL, 14.2 mmol) was added. The solution was warmed to room temperature and stirred for 30 minutes. The solution was diluted with diethyl ether (50 mL) and filtered to remove the urea and ammonium salts. The ether filtrate was concentrated in vacuo to dryness and the residue was purified by column chromatography (100% ethyl acetate) to afford the title compound as a colorless oil (990 mg, 78%). 1H NMR (400 MHz, CDCl3): δ 5.41-5.27 (m, 8H), 4.77-4.69 (m, 1H), 3.55-3.20 (m, 4H), 2.79-2.72 (m, 4H), 2.72-2.56 (m, 1H), 2.55-2.21 (m, 7H), 2.08-1.96 (m, 8H), 1.58-1.44 (m, 4H), 1.39-1.15 (m, 36H), 1.10 (t, J=7.0 Hz, 3H), 0.90-0.82 (m, 6H).

reactant | dilinoleyl methanol | 1.9 mmol, 1.0 g | C(CCCCCCC\C=C/C\C=C/CCCCC)C(O)CCCCCCCC\C=C/C\C=C/CCCCC | C37H68O
reactant | pyridine | 4.7 mmol, 230 μL | N1=CC=CC=C1 | C5H5N
reactant | diphosgene | 3.14 mmol, 0.38 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | N,N-dimethyl-N′-ethyl-ethylenediamine | 14.2 mmol, 2.2 mL | CN(CCNCC)C | C6H16N2
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | (6Z,9Z,28Z,31Z)-heptatriaconta-6,9,28,31-tetraen-18-yl 2-(dimethylamino)ethyl(ethyl)carbamate | 990 mg, 78% | CN(CCN(C(OC(CCCCCCC\C=C/C\C=C/CCCCC)CCCCCCCCC\C=C/C\C=C/CCCCC)=O)CC)C | C44H82N2O2
